US08937083B2
To a solution of 2-(acetylthiomethyl)-3,3,3-trifluoropropanoic acid (649 mg, 3 mmol) in MeOH (5 mL) stirring at 25° C. was added pellets of potassium hydroxide (421 mg, 7.50 mmol) in four portions over 5 minutes. Reaction was exothermic. Then MeI was added in once, the reaction mixture was then heated at 65° C. for 18 hours. The reaction was then cooled down and quenched with 2N HCl until acidic, and the aqueous layer extracted with chloroform (4×20 mL). Combined organic layer was dried, concentrated in vacuo, purified with flash chromatography (0-20% MeOH/DCM), to give 3,3,3-trifluoro-2-(methylthiomethyl)propanoic acid (410 mg, 2.179 mmol, 72.6% yield) as a light yellow oil: 1H NMR (400 MHz, CDCl3) δ 10.95 (s, 1H), 3.49-3.37 (m, 1H), 3.02 (dd, J=13.8, 10.8 Hz, 1H), 2.90 (dd, J=13.8, 4.0 Hz, 1H), 2.18 (s, 3H); 13C NMR (101 MHz, CDCl3) δ 172.04 (q, J=2.8 Hz), 123.55 (q, J=281.2 Hz), 50.89 (q, J=27.5 Hz), 29.62 (q, J=2.3 Hz), 15.85; 19F NMR (376 MHz, CDCl3) δ −67.98.

reactant | 2-(acetylthiomethyl)-3,3,3-trifluoropropanoic acid | 3 mmol, 649 mg | C(C)(=O)SCC(C(=O)O)C(F)(F)F | C6H7F3O3S
reactant | potassium hydroxide | 7.50 mmol, 421 mg | [OH-].[K+]
reactant | MeI | CI | CH3I
solvent | MeOH | 5 mL | CO | CH4O
product | 3,3,3-trifluoro-2-(methylthiomethyl)propanoic acid | 2.179 mmol, 410 mg, 72.6% yield | FC(C(C(=O)O)CSC)(F)F | C5H7F3O2S
